*TB_LELO_PMODELE - 2D DC Sweep with body bias VSB=0.6V
*VB=1.2V, VDD=1.8V => VSB=0.6V
*Nested sweep: VD outer, VG inner (absolute voltages)
*-----------------------------------------------------------------
* Include
*-----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_PMODELE_lpe.spi
#else
.include ../../../work/xsch/LELO_PMODELE.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* INDEPENDENT SOURCES
* VDD=1.8V (source), VB=1.2V (body 0.6V below source, VSB=0.6V)
*-----------------------------------------------------------------
VDD   VDD   0    dc 1.8
VBody VB    0    dc 1.2
VG    VG    0    dc 1.8
VD    VD    0    dc 1.8

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*-----------------------------------------------------------------
* NESTED DC SWEEP (VD outer, VG inner) - Reversed for PMOS
* VD 1.7V down to 0V in -0.01V steps (171 points)
* VG 1.8V down to 0V in -0.01V steps (181 points per VD)
* Total: ~30951 points
*-----------------------------------------------------------------
.dc VD 1.7 0 -0.01 VG 1.8 0 -0.01

*-----------------------------------------------------------------
* SAVE DATA
*-----------------------------------------------------------------
.save all
.save v(VG) v(VD) i(VDD)

*-----------------------------------------------------------------
* NGSPICE control
*-----------------------------------------------------------------
.control
set num_threads=20
unset askquit
set filetype=ascii
set hcopydevtype=postscript

run
write {cicname}.raw

quit
.endc

.end
